US07893090B2
(RS)-1-{2-[5,6-difluoro-1-(2-hydroxy-ethyl)-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone
(RS)-1-[2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone, E35 (250 mg, 0.53 mmol) was added slowly to an ice-cooled slurry of sodium hydride (43 mg, 1.1 mmol, 60% dispersion in mineral oil) in DMF (10 ml), under argon. After stirring for a further 0.5 h, 2-bromoethanol (0.045 ml, 0.64 mmol) was added. The mixture was heated at 110° C. for 48 h, but only a minor amount of product had formed (MS). Potassium carbonate (1.00 g), N,N-diisopropylethylamine (1.0 ml) and a further portion of 2-bromoethanol (0.5 ml) were added and heating was continued for 16 h. The volatiles were removed in vacuo from the cooled reaction mixture. The residue was partitioned between ethyl acetate and water. The organic phase was dried (Na2SO4) and the solvent removed in vacuo. Chromatography (silica gel, 0-5% methanol-ethyl acetate) afforded the title compound as a white solid (78 mg, 29%).

reactant | (RS)-1-[2-(5,6-Difluoro-1H-benzoimidazol-2-ylmethyl)-piperidin-1-yl]-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | FC1=CC2=C(NC(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)C=C1F | C24H21F3N4OS
reactant | sodium hydride | 1.1 mmol, 43 mg | [H-].[Na+]
reactant | 2-bromoethanol | 0.64 mmol, 0.045 ml | BrCCO | C2H5BrO
reactant | Potassium carbonate | 1.00 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-diisopropylethylamine | 1.0 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-bromoethanol | 0.5 ml | BrCCO | C2H5BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | (RS)-1-{2-[5,6-difluoro-1-(2-hydroxy-ethyl)-1H-benzoimidazol-2-ylmethyl]-piperidin-1-yl}-1-[5-(4-fluoro-phenyl)-2-methyl-thiazol-4-yl]-methanone | 78 mg, 29% | FC1=CC2=C(N(C(=N2)CC2N(CCCC2)C(=O)C=2N=C(SC2C2=CC=C(C=C2)F)C)CCO)C=C1F | C26H25F3N4O2S
